US05736534
4-(6-Chloro-2,3-dihydro-indol-1-yl)-6,7,8-trimethoxy-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 20% yield from 6-chloro-indoline (1.1 eq.) and 4-chloro-6,7,8-trimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 139°-143° C.; GC/MS: 371 (M+); anal. RP18-HPLC RT: 4.70 min.).

reactant | 6-chloro-indoline | 1.1 eq. | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | 4-chloro-6,7,8-trimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=C(C(=C(C=C12)OC)OC)OC | C11H11ClN2O3
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-6,7,8-trimethoxy-quinazoline | 20% yield | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=C(C(=C(C=C12)OC)OC)OC | C19H18ClN3O3
